US04743691
Chlorotrimethylsilyl (22 g) is added dropwise over 20 minutes to a suspension of NaI (30 g) in CH3CN (300 ml) cooled to 0° C. Stirring is continued for 30 minutes at room temperature. 2-Fluoromethyl-2-phthalimido-5-benzyloxypentanenitrile (25 g) in CH3CN (50 ml) is added, and the mixture is stirred overnight at room temperature. This mixture is then poured into cold water containing sodium bicarbonate and sodium thiosulfate, and extracted with diethyl ether. The organic layer is dried over MgSO4 and concentrated in vacuo. The residue is taken up in THF (200 ml) and triethylamine (7 g) is added. After stirring for 1 hour, the mixture is poured into water and extracted with diethyl ether. The organic layer is washed with H2O, dried over MgSO4, and concentrated in vacuo. The residue, a mixture of 2-fluoromethyl-2-phthalimido-5-hydroxypentanenitrile and 2-fluoromethyl-2-phthalimido-5-iodopentanenitrile is taken up in CH3CN (50 ml) and added to a solution of iodotrimethylsilyl prepared as described above from TMS Cl (22 g) and NaI (30 g) in CH3CN (300 ml). The mixture is stirred overnight at room temperature. Then it is poured into cold water containing sodium bicarbonate and sodium thiosulfate, and extracted with diethyl ether. The residue obtained after concentration of the organic layer in vacuo is filtered on a florisil column (30 g). Elution with diethyl ether and removal of the solvent under reduced pressure gives 22 g of 2-fluoromethyl-2-phthalimido-5-iodopentanenitrile as an oil.

reactant | NaI | 30 g | [Na+].[I-]
reactant | 2-Fluoromethyl-2-phthalimido-5-benzyloxypentanenitrile | 25 g | FCC(C#N)(CCCOCC1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C21H19FN2O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | NaI | 30 g | [Na+].[I-]
solvent | CH3CN | 300 ml | CC#N | C2H3N
solvent | CH3CN | 50 ml | CC#N | C2H3N
solvent | CH3CN | 300 ml | CC#N | C2H3N
solvent | water | O | H2O
product | 2-fluoromethyl-2-phthalimido-5-iodopentanenitrile | 22 g | FCC(C#N)(CCCI)N1C(C=2C(C1=O)=CC=CC2)=O | C14H12FIN2O2
